US08912209B2
Intermediate 8: {1-[2-Bromo-4-(3-fluoro-pyridine-4-ylcarbamoyl)-phenyl]-ethyl}-carbamic acid tert-butyl ester
To a solution of 3-bromo-4-(1-tert-butoxycarbonylamino-ethyl)-benzoic acid (8352 μmol) in dry THF (20 ml) was added Ghosez reagent (2 eq.). The mixture was stirred at RT for 2 hours. The solvent was removed under reduced pressure. The residue was dissolved in dry pyridine (20 ml) and 3-fluoro-pyridin-4-ylamine (1.2 eq) was added. The reaction mixture was stirred at RT for 2.5 hours. The pyridine was removed under reduced pressure. The residue was dissolved in 1N Na2CO3 and extracted with EtOAc. The combined organic layers were washed with 1N NaHCO3, citric acid and water. The organic layer was dried over MgSO4 and the solvent was removed under reduced pressure. The compound was purified by column chromatography (silicagel, DCM/MeOH gradient).

reactant | 3-bromo-4-(1-tert-butoxycarbonylamino-ethyl)-benzoic acid | 8352 μmol | BrC=1C=C(C(=O)O)C=CC1C(C)NC(=O)OC(C)(C)C | C14H18BrNO4
reactant | 3-fluoro-pyridin-4-ylamine | 1.2 eq | FC=1C=NC=CC1N | C5H5FN2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | {1-[2-Bromo-4-(3-fluoro-pyridine-4-ylcarbamoyl)-phenyl]-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C)C1=C(C=C(C=C1)C(NC1=C(C=NC=C1)F)=O)Br)=O | C19H21BrFN3O3
